US07399775B2
(2-Bromomethylbenzyloxy)-t-butyldiphenylsilane
In dichloromethane (50 ml) were dissolved [2-[(t-butyldiphenylsilyloxy)methyl]phenyl]methanol (3.00 g, 7.97 mmol) and carbon tetrabromide (3.40 g, 10.3 mmol). Under ice cooling, a dichloromethane solution (5 ml) of triphenylphosphine (2.70 g, 10.3 mmol) was added dropwise. After stirring at room temperature for 14 hours, the reaction mixture was concentrated under reduced pressure. The residue thus obtained was subjected to silica gel chromatography. The fraction obtained from the hexane:ethyl acetate=30:1 eluate was concentrated under reduced pressure, whereby the title compound (3.12 g, 7.10 mmol, 89%) was obtained as a colorless oil.

reactant | [2-[(t-butyldiphenylsilyloxy)methyl]phenyl]methanol | 7.97 mmol, 3.00 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C=CC=C1)CO | C24H28O2Si
reactant | carbon tetrabromide | 10.3 mmol, 3.40 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 10.3 mmol, 2.70 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hexane | CCCCCC | C6H14
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-Bromomethylbenzyloxy)-t-butyldiphenylsilane | 7.10 mmol, 3.12 g, 89% | BrCC1=C(CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)C=CC=C1 | C24H27BrOSi
